US07795282B2
Step C: Preparation of 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-5-bromo-1,3,4-thiadiazole:
2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-1,3,4-thiadiazole (0.020 g, 0.0451 mmol) was dissolved in 0.25 mL ACN, followed by addition of N-Bromosuccinimide (0.00883 g, 0.0496 mmol), and the reaction mixture was heated at 60° C. for 14 hours. The reaction mixture was concentrated, and the residue was partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated. The crude material was then purified by flash column chromatography, eluting with 5.3:1 (hexanes/ethyl acetate), to afford the desired product as a thick golden oil (22 mg, 93%).

reactant | 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-1,3,4-thiadiazole | 0.0451 mmol, 0.020 g | N(=[N+]=[N-])CCCC1(SC(=NN1C=1SC=NN1)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C19H15F2N7S2
reactant | N-Bromosuccinimide | 0.0496 mmol, 0.00883 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | ACN | 0.25 mL | C(C)#N | C2H3N
product | 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-5-bromo-1,3,4-thiadiazole | 22 mg, 93% | N(=[N+]=[N-])CCCC1(SC(=NN1C=1SC(=NN1)Br)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C19H14BrF2N7S2
